US07820670B2
3-Chloro-N-(pyridin-2-ylmethyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3,6-dichloroimidazo[1,2-b]pyridazine and 2-(aminomethyl)pyridine according to general procedure 3 providing the title compound (56 mg, 27%) as a white solid; 1H NMR (500 MHz, CD3OD) δ 8.50 (d, J=4.9 Hz, 1H), 7.79 (dt, J=1.7, 9.4, Hz, 1H), 7.61 (d, J=9.7 Hz, 1H), 7.54 (d, J=7.9 Hz, 1H), 7.34 (s, 1H), 7.30 (dd, J=5.3, 6.5 Hz, 1H), 6.81 (d, J=9.7 Hz, 1H), 4.68 (s, 1H); 13C NMR (75 MHz, CD3OD) δ 159.7, 155.5, 149.7, 138.7, 127.9, 126.1, 123.7, 123.6, 115.7, 114.6 (one carbon overlapping with solvent); HPLC tR=8.8 min (Synergi), 98.8 %; ES-MS: (M+H)=260 m/z.

reactant | 3,6-dichloroimidazo[1,2-b]pyridazine | ClC1=CN=C2N1N=C(C=C2)Cl | C6H3Cl2N3
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | 3-Chloro-N-(pyridin-2-ylmethyl)imidazo[1,2-b]pyridazin-6-amine | 56 mg, 27% | ClC1=CN=C2N1N=C(C=C2)NCC2=NC=CC=C2 | C12H10ClN5
